US09120747B2
(S)-5-Biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)pyrrolidin-2-one (40 g, 120 mmol) was dissolved in anhydrous THF (400 mL) and stirred at −78° C. under nitrogen To this was added 1.5 eq of a 2.0M THF solution of sodium bis(trimethylsilyl)amide dropwise over 5 minutes. The light yellow mixture was stirred for 20 minutes under nitrogen at −78° C., followed by the slow dropwise addition of oxaziridine (53 g, 180 mmol) as a 200 mL solution in THF. The mixture was stirred for 0.5 hour. The reaction was quenched with saturated aqueous NH4Cl, and the mixture was extracted with EtOAc (1 L). The extract was washed with 1N HCl (1 L), dried over MgSO4, and concentrated to a 500 mL volume. The precipitated white solid was filtered, the filtrate was concentrated to remove solvent after the addition of silica gel (200 g). The residue was put on a column (8×80 cm) of silica gel (900 g), which was previously packed in hexanes. Elution was carried out initially with DCM:hexanes (1:1). Once the oxaziridine and imine were completely collected, the column was eluted with DCM to obtain (3R,5R)-5-Biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)-3-hydroxypyrrolidin-2-one (21 g, 98% purity) as yellow oil.

reactant | (S)-5-Biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)pyrrolidin-2-one | 120 mmol, 40 g | C1(=CC=C(C=C1)C[C@@H]1CCC(N1C(C(C)(C)C)=O)=O)C1=CC=CC=C1 | C22H25NO2
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | oxaziridine | 180 mmol, 53 g | O1NC1 | CH3NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0M | C1CCOC1 | C4H8O
product | (3R,5R)-5-Biphenyl-4-ylmethyl-1-(2,2-dimethylpropionyl)-3-hydroxypyrrolidin-2-one | 21 g, 98% | C1(=CC=C(C=C1)C[C@@H]1C[C@H](C(N1C(C(C)(C)C)=O)=O)O)C1=CC=CC=C1 | C22H25NO3
